US06855710B2
c) (Z)-3-[1-(4-propionylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone
265 mg (1 mmol) of 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone are dissolved in 5 ml of DMF and after the addition of 300 mg (1.8 mmol) of 4-propionylamino-aniline stirred for 8 hours at 150° C. After cooling, it is diluted with water, the crystalline product is suction filtered, washed and dried.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | 1 mmol, 265 mg | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=CC=C12)=O | C17H15NO2
reactant | 4-propionylamino-aniline | 1.8 mmol, 300 mg | C(CC)(=O)NC1=CC=C(N)C=C1 | C9H12N2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (Z)-3-[1-(4-propionylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(CC)(=O)NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H21N3O2
